US04226869
7-Chloro-10-[(4-dimethylaminobutyl)amino]-2-methoxypyrido[3,2-b]quinoline dihydrochloride
A mixture of 4.2 g. of 7,10-dichloro-2-methoxypyrido [3,2-b]quinoline, 1.6 g. of dimethylaminobutylamine and 10 g. of phenol is stirred and heated on a steam bath for 3 hours. The reaction is cooled, 30 ml. of ethanol is added and this mixture is poured into a mixture of 300 ml. of acetone and 3.75 ml. of concentrated hydrochloric acid. The yellow precipitate is collected, washed with acetone, air-dried and recrystallized from 100 ml. of 95% alcohol giving the desired product as yellow crystals, mp. 237°-238° C. (dec.)

reactant | 7,10-dichloro-2-methoxypyrido [3,2-b]quinoline | ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)Cl | C13H8Cl2N2O
reactant | dimethylaminobutylamine | CN(C)CCCCN | C6H16N2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
solvent | ethanol | C(C)O | C2H6O
product | 7-Chloro-10-[(4-dimethylaminobutyl)amino]-2-methoxypyrido[3,2-b]quinoline dihydrochloride | Cl.Cl.ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)NCCCCN(C)C | InChI=1S/C19H23ClN4O.2ClH/c1-24(2)11-5-4-10-21-18-14-7-6-13(20)12-16(14)22-15-8-9-17(25-3)23-19(15)18;;/h6-9,12H,4-5,10-11H2,1-3H3,(H,21,22);2*1H
